Data/regression/rad6re/fold_0/aam_train.csv
AAM,dh
[H:12].[H:1][C:2]#[C:3][C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[C:10][H:11]>>[H:1][C:2]#[C:3][C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[C:10]([H:11])[H:12],-5.217223538480001
[C:2]([O:3][C:4]([H:5])([H:6])[H:7])[O:8][C:9]([H:10])([H:11])[C:12]([H:13])([H:14])[H:15].[H:1]>>[H:1][C:2]([O:3][C:4]([H:5])([H:6])[H:7])[O:8][C:9]([H:10])([H:11])[C:12]([H:13])([H:14])[H:15],-2.69572236456
[H:1][C:2][O:3][C:4]([H:5])[C:6]([H:7])([H:8])[C:9]#[C:10][H:11]>>[H:1][C:2].[O:3]=[C:4]([H:5])[C:6]([H:7])([H:8])[C:9]#[C:10][H:11],2.86851056558
[H:1][C:2]([H:3])([H:4])[C:5]1[O:6][O:7][C:8]1([H:9])[H:10]>>[H:1][C:2]([H:3])([H:4])[C:5][C:8]([O:7][O:6])([H:9])[H:10],2.49311724379
[C:6]([H:7])[H:8].[O:1]=[C:2]([O:3][C:4][H:5])[C:9]([H:10])([H:11])[H:12]>>[O:1]=[C:2]([O:3][C:4]([H:5])=[C:6]([H:7])[H:8])[C:9]([H:10])([H:11])[H:12],-7.89859362119
[C:11]([H:12])([H:13])[H:14].[H:1][C:2][O:3][C:4](=[C:5]([H:6])[H:7])[C:8]([H:9])[H:10]>>[H:1][C:2][O:3][C:4](=[C:5]([H:6])[H:7])[C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[H:14],-3.49485460112
[H:1][C:2]#[C:3][C@@:4]([H:5])([C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[H:12])[C:13]([H:14])[H:15]>>[H:1][C:2]1[C:3][C@@:4]([H:5])([C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[H:12])[C:13]1([H:14])[H:15],0.0148907318198
[H:11].[H:1][C:2]([H:3])=[C:4][O:5][C:6]#[C:7][C:8]([H:9])[H:10]>>[H:1][C:2]([H:3])=[C:4][O:5][C:6]#[C:7][C:8]([H:9])([H:10])[H:11],-3.88247871809
[C:1].[C:2][O:3][C:4][O:5][C:6]([H:7])([H:8])[H:9]>>[C:1]#[C:2][O:3][C:4][O:5][C:6]([H:7])([H:8])[H:9],-5.97598802243
[C:8]([H:9])[O:10][H:11].[H:1][O:2][C:3][C:4]([H:5])([H:6])[C:7]>>[H:1][O:2][C:3][C:4]([H:5])([H:6])/[C:7]=[C:8](\[H:9])[O:10][H:11],-5.6094084238
[H:1][C:2]([H:3])([H:4])[O:5][O:6][C:7]([H:8])([C:9]([H:10])([H:11])[H:12])[C:13]([H:14])([H:15])[H:16]>>[C:7]([H:8])([C:9]([H:10])([H:11])[H:12])[C:13]([H:14])([H:15])[H:16].[H:1][C:2]([H:3])([H:4])[O:5][O:6],2.87136279523
[C:2]([H:3])[C:4]([H:5])([H:6])[O:7][C:8]([H:9])=[C:10][H:11].[O:1]>>[O:1]=[C:2]([H:3])[C:4]([H:5])([H:6])[O:7][C:8]([H:9])=[C:10][H:11],-8.051940905710001
[H:1][O:2][C@@:3]([H:4])([O:5][C:6]([H:7])([H:8])[C:9]([H:10])[H:11])[C:12]([H:13])([H:14])[H:15]>>[C:6]([H:7])([H:8])=[C:9]([H:10])[H:11].[H:1][O:2][C@@:3]([H:4])([O:5])[C:12]([H:13])([H:14])[H:15],0.894519372431
[C:12]([H:13])([H:14])[C:15]([H:16])([H:17])[H:18].[H:1][C:2]([H:3])=[C:4]([C:5]([H:6])([H:7])[H:8])[C:9]([H:10])[H:11]>>[H:1][C:2]([H:3])=[C:4]([C:5]([H:6])([H:7])[H:8])[C:9]([H:10])([H:11])[C:12]([H:13])([H:14])[C:15]([H:16])([H:17])[H:18],-4.08310837691
[C:3](=[C:4]([H:5])[H:6])[C:7]([H:8])([H:9])[C:10]([H:11])=[C:12]([H:13])[H:14].[H:1][O:2]>>[H:1][O:2][C:3](=[C:4]([H:5])[H:6])[C:7]([H:8])([H:9])[C:10]([H:11])=[C:12]([H:13])[H:14],-6.18545873076
[H:1][C:2]([H:3])[O:4][C:5]([H:6])[C@:7]([H:8])([C:9]([H:10])[H:11])[C:12]([H:13])([H:14])[H:15]>>[C:9]([H:10])[H:11].[H:1][C:2]([H:3])[O:4]/[C:5]([H:6])=[C:7](\[H:8])[C:12]([H:13])([H:14])[H:15],3.15767803004
[C:1]#[C:2][C:3]([O:4][H:5])[C:6]([H:7])([H:8])[H:9]>>[C:1]#[C:2].[C:3]([O:4][H:5])[C:6]([H:7])([H:8])[H:9],6.947159087619999
[H:13].[H:1][C:2]=[C:3]([C:4]([H:5])([H:6])[H:7])[C:8]([H:9])([H:10])[C:11]=[O:12]>>[H:1][C:2]=[C:3]([C:4]([H:5])([H:6])[H:7])[C:8]([H:9])([H:10])[C:11][O:12][H:13],-1.67092730745
[H:1][C:2]#[C:3][O:4][C:5]([H:6])=[C:7][H:8].[O:9][H:10]>>[H:1][C:2]#[C:3][O:4]/[C:5]([H:6])=[C:7](\[H:8])[O:9][H:10],-6.00620168041
[H:1][O:2][C:3]([H:4])([H:5])[C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[C:12]([H:13])([H:14])[H:15]>>[C:3]([H:4])([H:5])[C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[C:12]([H:13])([H:14])[H:15].[H:1][O:2],5.39929086206
[H:1][O:2]/[C:3]=[C:4](\[H:5])[C@:6]([H:7])([C:8]([H:9])[H:10])[C:11]([H:12])([H:13])[H:14]>>[H:1].[O:2]=[C:3]=[C:4]([H:5])[C@:6]([H:7])([C:8]([H:9])[H:10])[C:11]([H:12])([H:13])[H:14],0.912583920306
[C:7]([C:8]([H:9])([H:10])[H:11])[C:12]([H:13])([H:14])[H:15].[H:1][O:2][C:3]([H:4])([H:5])[O:6]>>[H:1][O:2][C:3]([H:4])([H:5])[O:6][C:7]([C:8]([H:9])([H:10])[H:11])[C:12]([H:13])([H:14])[H:15],-4.16094375016
[H:1][C:2]=[C:3]([H:4])[C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[O:11].[O:12][H:13]>>[H:1][C:2]=[C:3]([H:4])[C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[O:11][O:12][H:13],-3.1422271907
[H:1][C:2]#[C:3][C@@:5]([H:6])([O:7][H:8])[C:9]([H:10])([H:11])[C:12]([H:13])([H:14])[H:15].[H:4]>>[H:1][C:2]=[C:3]([H:4])[C@:5]([H:6])([O:7][H:8])[C:9]([H:10])([H:11])[C:12]([H:13])([H:14])[H:15],-1.91441907793
[H:1][C:2][O:3][C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[O:10][H:11]>>[C:7]([H:8])([H:9])[O:10][H:11].[H:1][C:2][O:3][C:4]([H:5])[H:6],3.70463106724
[C:6]([H:7])([O:8][C:9]([H:10])([H:11])[H:12])[C:13]([H:14])([H:15])[H:16].[H:1][C:2]([H:3])=[C:4][H:5]>>[H:1][C:2]([H:3])=[C:4]([H:5])[C@@:6]([H:7])([O:8][C:9]([H:10])([H:11])[H:12])[C:13]([H:14])([H:15])[H:16],-4.13475369636
[C:10]([H:11])([H:12])[C:13]([H:14])([H:15])[C:16]([H:17])([H:18])[H:19].[H:1][C:2]([C:3]([H:4])([H:5])[H:6])=[C:7]([H:8])[H:9]>>[H:1][C:2]([C:3]([H:4])([H:5])[H:6])[C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[C:13]([H:14])([H:15])[C:16]([H:17])([H:18])[H:19],-1.34924669461
